US04415572
A suspension of 2.2 g of N-(β-bromopropionyl)-p-piperazinylaniline and 28 g of pulverized anhydrous aluminum chloride in 50 ml of carbon disulfide was stirred under reflux for 4 hours. The reaction mixture was poured into ice water and the precipitations were collected by filtration, washed with water and then with ether and converted to hydrobromic acid salt followed by recrystallization from methanol-water to give 0.9 g of 6-(1-piperazinyl)-3,4-dihydrocarbostyril monohydrobromide, m.p. 289°-293° C. (decomp.) (methanol-water), colorless needles.

reactant | N-(β-bromopropionyl)-p-piperazinylaniline | 2.2 g | BrCCC(=O)NC1=CC=C(C=C1)N1CCNCC1 | C13H18BrN3O
reactant | aluminum chloride | 28 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 50 ml | C(=S)=S | CS2
product | 6-(1-piperazinyl)-3,4-dihydrocarbostyril monohydrobromide | 0.9 g | Br.N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C13H17N3O.BrH/c17-13-4-1-10-9-11(2-3-12(10)15-13)16-7-5-14-6-8-16;/h2-3,9,14H,1,4-8H2,(H,15,17);1H
